* SPICE3 file created from current_bias.ext - technology: sky130A

*.subckt current_bias R Vbn Vbp VP VN
X0 VP a_1200_n3000# Vbp VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X1 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X2 VP a_1200_n3000# a_1200_n3000# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X3 Vbn Vbn VN VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X4 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X5 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X6 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X7 VN Vbn Vbp VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X8 VN VN a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X9 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X10 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X11 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X12 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X13 VP VP Vbp VP sky130_fd_pr__pfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X14 a_200_n4390# VP VP VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X15 Vbp Vbn VN VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X16 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X17 Vbn Vbp VP VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X18 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X19 a_200_n4390# Vbp VP VP sky130_fd_pr__pfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X20 a_1200_n3000# a_1200_n3000# VP VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X21 a_200_n4390# VN VN VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X22 VN a_200_n4390# a_1200_n3000# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X23 VN VN a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X24 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X25 VN VN a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X26 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X27 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=3 pd=13 as=1.5 ps=6.5 w=6 l=0.5
X28 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X29 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X30 a_1200_n3000# a_200_n4390# VN VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X31 R a_200_n4390# a_200_n4390# VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X32 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X33 VN Vbn Vbn VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X34 a_200_n4390# VN VN VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X35 a_200_n4390# a_200_n4390# R VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X36 Vbp a_1200_n3000# VP VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X37 a_200_n4390# VN VN VN sky130_fd_pr__nfet_01v8 ad=1.5 pd=6.5 as=3 ps=13 w=6 l=0.5
X38 VP Vbp a_200_n4390# VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
X39 VP Vbp Vbn VP sky130_fd_pr__pfet_01v8 ad=1.5 pd=6.5 as=1.5 ps=6.5 w=6 l=0.5
*.ends

